US04249012
4-Propionamidothiazole
A solution of 2-bromo-4-propionamidothiazole (4 g) and sodium acetate (1.4 g) in methanol (100 ml.) was hydrogenated at atmospheric pressure over 10% Pd/C catalyst (1.0 g) until the theoretical uptake of hydrogen and occurred. The catalyst was removed by filtration and washed with methanol and the extracts evaporated in vacuo. The residue was recrystallised twice from carbon tetrachloride to give the title compound (1.9 g) m.p. 129°-32° C. (Found: C, 46.3; H, 5.2; N, 17.7. C6H8N2OS requires C, 46.1; H, 5.2; N, 17.9%).

reactant | 2-bromo-4-propionamidothiazole | 4 g | BrC=1SC=C(N1)NC(CC)=O | C6H7BrN2OS
reactant | sodium acetate | 1.4 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 4-Propionamidothiazole | 1.9 g, 17.9% | C(CC)(=O)NC=1N=CSC1 | C6H8N2OS
